data/mechanism_extracts/Tetrahedron/10.1016_j.tetlet.2023.154410.json
{"doi": "10.1016_j.tetlet.2023.154410", "journal": "Tetrahedron", "is_review": false, "rxn_class_summary": "Electrochemical radical relay cyclization of benzimidazole-tethered alkenes with sodium triflinate (Langlois reagent) to access 5-(2,2,2-trifluoroethyl)-5,6-dihydrobenzimidazo-isoquinolines", "mechanism_family": ["radical_anodic", "radical_polar_crossover"], "electrochemical_role": "Anodic oxidation of CF3SO2- (Langlois reagent) generates CF3SO2• which extrudes SO2 to give CF3•; a downstream cyclohexadienyl-type radical intermediate is also oxidized at the anode to a cation prior to rearomatization", "key_intermediates": [{"name": "CF3SO2• (sulfonyl radical from anodic oxidation of Langlois reagent)", "smiles": "[O]S(=O)C(F)(F)F", "role": "transient"}, {"name": "CF3• radical (after SO2 extrusion)", "smiles": "[C](F)(F)F", "role": "reactive"}, {"name": "Carbon-centered alkyl radical A from CF3 addition to the pendent alkene", "smiles": null, "role": "reactive"}, {"name": "Cyclohexadienyl radical B from intramolecular radical addition onto the aryl ring", "smiles": null, "role": "reactive"}, {"name": "Wheland-type arenium cation C after anodic oxidation of B", "smiles": null, "role": "reactive"}, {"name": "Benzimidazo-isoquinoline product 3 after deprotonation/rearomatization", "smiles": null, "role": "reactive"}], "electron_flow": "Anode oxidizes CF3SO2- to CF3SO2•, which loses SO2 to give CF3•; CF3• adds to the tethered alkene of 1a to form alkyl radical A, which cyclizes onto the arene to give cyclohexadienyl radical B; B is oxidized at the anode (or by O2/HOO•) to cation C, then deprotonation yields aromatic product 3 with concomitant H2 evolution at the cathode.", "rate_determining_step": null, "probe_reagents": [{"name": "TEMPO", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "radical_trap", "observation": "Product 3 not detected (N.D.), consistent with radical intermediates"}, {"name": "BHT", "smiles": "CC(C)(C)c1cc(C)cc(C(C)(C)C)c1O", "purpose": "radical_trap", "observation": "Product 3 not detected, supporting a radical pathway"}, {"name": "1,1-diphenylethylene (DPE)", "smiles": "C(=C)(c1ccccc1)c1ccccc1", "purpose": "radical_trap", "observation": "Ph2C=CHSO2CF3 adduct detected by GC-MS (m/z 312.00); product 3 not formed, trapping CF3SO2•/CF3• indicates sulfonyl/trifluoromethyl radical intermediates"}, {"name": "N2 atmosphere control", "smiles": null, "purpose": "other", "observation": "Yield dropped from 80% (air) to 43% under N2, indicating O2 participates as a terminal oxidant/H-abstractor (HOO•/O2•-) in rearomatization"}, {"name": "No current control", "smiles": null, "purpose": "other", "observation": "No reaction without applied current, confirming electrochemical initiation"}, {"name": "Unactivated N-pentenyl substrates 26 and 27", "smiles": null, "purpose": "other", "observation": "0% product — aryl ring acceptor is required for the radical cyclization step"}], "evidence_types_used": ["intermediate_trap_TEMPO", "intermediate_trap_BHT", "intermediate_trap_other", "cyclic_voltammetry", "on/off_light_or_current"], "evidence_strength": "medium", "notes": "Cyclic voltammetry (Fig. 1) shows that 2 + CF3SO3H produces a new oxidation feature at lower potential than 1a, supporting that anodic oxidation of the Langlois reagent (not the benzimidazole alkene) initiates the cycle. The authors note that direct H-atom abstraction from cyclohexadienyl radical B (by O2•-/HOO•) to deliver 3 cannot be ruled out as an alternative to the anodic oxidation/deprotonation pathway through cation C."}
